*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Passive Elements - Resistors
R1 1 2 1.02597459645kOhm
R2 3 2 2.02178008702kOhm
R3 2 7 3.03144887426kOhm
R4 7 0 4.13109833342kOhm
R5 7 4 3.09601431108kOhm
R6 0 8 2.01920057699kOhm
R7 6 5 1.02918842978kOhm

* supply voltage
Va 1 0 5.1256272592V

* add a voltage source with value 0V to sence de control current
Vo 8 6 0V

* supply current
Id 5 4 1.011814928mA

* current-controlled dependent voltage source
Hvc 7 5 Vo 8.0919603219kOhm   ;são estas as unidades?

* voltage-controlled dependent current source
Gib 4 3 2 7 7.28538907285mS   ;são estas as unidades?


.control
op

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end
